US05205962
0,2 mM of Pd(Ph3P)2Cl2 and 0,1 mM of CuJ are added to a mixture of 0,01 M of 3-bromo-2,6-difluoropyridine (preparation: 2,6-difluoropyridine is reacted with lithiumdiisopropylamide (LDA) as described in example 3a, then Br2 is added at -60° to -70°. The mixture is allowed to warm up to room temperature and worked up, the product is purified by distillation), 0,01 M of 4-pentylphenylacetylene and 200 ml of triethylamine. The mixture is stirred for 8 hours at room temperature; after customary work-up and purification by crystallization and chromatography 1-(4-pentylphenyl)-2-(2,6-difluoropyridine-3-yl)acetylene is obtained.

reactant | 3-bromo-2,6-difluoropyridine | 0,01 M | BrC=1C(=NC(=CC1)F)F | C5H2BrF2N
reactant | 2,6-difluoropyridine | FC1=NC(=CC=C1)F | C5H3F2N
reactant | lithiumdiisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | Br2 | BrBr | Br2
catalyst | Pd(Ph3P)2Cl2 | 0,2 mM | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(4-pentylphenyl)-2-(2,6-difluoropyridine-3-yl)acetylene | C(CCCC)C1=CC=C(C=C1)C#CC=1C(=NC(=CC1)F)F | C18H17F2N
